US05994378
Lithium aluminium hydride (0.14 g) was added to a solution of ethyl 3-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]propionate (0.65 g) in tetrahydrofuran (10 ml) at room temperature under an inert atmosphere. After the mixture was stirred for 2 hours, water was added to the mixture. The resulting precipitates were filtered off and the filtrate was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give 3-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]propanol (0.42 g).

reactant | Lithium aluminium hydride | 0.14 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 3-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]propionate | 0.65 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CCC(=O)OCC | C20H23NO3S
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]propanol | 0.42 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CCCO | C18H21NO2S
